US08895582B2
To a solution of (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-3-(imidazo[1,5-a]pyrazin-3-yl)propyl isoquinolin-3-ylcarbamate (100 mg, 0.178 mmol) and MeOH (5 mL) were added 10% Pd—C (100 mg). The resulting mixture was stirred under 12 psi of hydrogen for h. The mixture was filtered and concentrated. The resulting residue was purified on prep-HPLC (ACN/H2O with 0.1% HCOOH) to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-3-(5,6,7,8-tetrahydroimidazo[1,5-a]pyrazin-3-yl)propyl isoquinolin-3-ylcarbamate (35 mg, 35%). LRMS (M+H+) m/z 566.1.

reactant | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-3-(imidazo[1,5-a]pyrazin-3-yl)propyl isoquinolin-3-ylcarbamate | 0.178 mmol, 100 mg | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CC1=NC=C2N1C=CN=C2)N(C(=O)NCC2=C(C(=CC=C2)F)Cl)C)=O | C28H25ClFN7O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd—C | 100 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-3-(5,6,7,8-tetrahydroimidazo[1,5-a]pyrazin-3-yl)propyl isoquinolin-3-ylcarbamate | 35 mg, 35% | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CC1=NC=C2N1CCNC2)N(C(=O)NCC2=C(C(=CC=C2)F)Cl)C)=O | C28H29ClFN7O3
